US04824958
Methyl 3-hydroxy-4-(1-methylethyl)-5-methyl-2-thiophenecarboxylate.
Prepared by the method described in Example 1 from ethyl α-isopropylacetoacetate (prepared by the procedure of Manuel and Hagen, Org. Syn., 7, 248 (1951)) (12 g, 70 mmoles), methyl thioglycolate (15.7 g, 140 mmoles) and sodium (3.2 g, 139 mmoles). The product is extracted with CH2Cl2 twice. The combined extracts are washed with aqueous NaCl twice, dried over MgSO4 and stripped of solvent under reduced pressure. Distillation of the residue gave the product (3.3 g); bp 68°-71° C. (0.3 mmHg).

reactant | ethyl α-isopropylacetoacetate | C(C)(C)C(C(=O)OCC)C(=O)C | C9H16O3
reactant | methyl thioglycolate | 140 mmoles, 15.7 g | C(CS)(=O)OC | C3H6O2S
reactant | sodium | 139 mmoles, 3.2 g | [Na] | Na
product | Methyl 3-hydroxy-4-(1-methylethyl)-5-methyl-2-thiophenecarboxylate | 3.3 g | OC1=C(SC(=C1C(C)C)C)C(=O)OC | C10H14O3S
